US04207237
A stream of dry halogen chloride is passed as a moderate rate through a solution of 12.5 g of N-methylpyrrole and 16.8 g of ethyl cyanoformate in 125 mls of ethanol-free chloroform at 22° C. for 31/2 hours. The reaction mixture is added dropwise with stirring to a 1.5 liter solution of 5% sodium bicarbonate. The chloroform layer is separated, dried over Na2SO4 and evaporated in vacuo at room temperature to give a brown oil (ethyl α-imino-1-methylpyrrole-2-acetate).

reactant | N-methylpyrrole | 12.5 g | CN1C=CC=C1 | C5H7N
reactant | ethyl cyanoformate | 16.8 g | C(#N)C(=O)OCC | C4H5NO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 125 mls | C(C)O | C2H6O
product | ethyl α-imino-1-methylpyrrole-2-acetate | N=C(C(=O)OCC)C=1N(C=CC1)C | C9H12N2O2
